US09388161B2
(S)-1-(6-(1-Cyclopropyl-1H-pyrazol-4-yl)-5-(1-ethylazetidin-3-yloxy)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone was synthesized from (S)-1-(5-(azetidin-3-yloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone and acetaldehyde according to the procedure outlined above for Example 40. 1H NMR (400 MHz, CD3OD) δ ppm 0.97 (t, J=7.20 Hz, 3H), 1.05-1.18 (m, 7H), 1.10-1.35 (m, 1H), 2.16 (s, 3H), 2.20-2.40 (m, 2H), 2.51 (q, J=7.20 Hz, 2H), 2.88-2.98 (m, 1H), 3.07 (t, J=7.20 Hz, 1H), 3.15 (t, J=7.20 Hz, 1H), 3.41-3.55 (m, 2H), 3.68-3.75 (m, 1H), 4.25-4.32 (m, 1H), 4.65-4.80 (m, 1H), 7.01-7.12 (m, 1H), 7.37 (d, J=8.00 Hz, 1H), 7.81 (s, 1H), 8.02 (s, 1H). MS (ESI, pos. ion) m/z 395 [M+H]+.

reactant | (S)-1-(5-(azetidin-3-yloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | N1CC(C1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)C1CC1)C(C)=O)C | C21H26N4O2
reactant | acetaldehyde | C(C)=O | C2H4O
product | (S)-1-(6-(1-Cyclopropyl-1H-pyrazol-4-yl)-5-(1-ethylazetidin-3-yloxy)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | C1(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1CN(C1)CC | C23H30N4O2
